US04868331
5-(4-Chlorobenzenesulphonylamino)-5,6,7,8-tetrahydronaphth-2-yl-oxyacetic acid
10 mmol of 5-(4-chlorobenzenesulphonylamino)-5,6,7,8-tetrahydro-naphth-2-yl-oxyacetamide are heated under reflux in 12 ml of 2N KOH and 40 ml of MeOH for 6 hours. The methanol is stripped off, 30 ml of 1N KOH are added and the mixture is extracted by shaking twice with CH2Cl2. The H2O phase is brough to pH 2 with concentrated HCl and the precipitates is filtered off and dried thoroughly.

reactant | 5-(4-chlorobenzenesulphonylamino)-5,6,7,8-tetrahydro-naphth-2-yl-oxyacetamide | 10 mmol | ClC1=CC=C(C=C1)S(=O)(=O)NC1C=2C=CC(=CC2CCC1)OCC(=O)N | C18H19ClN2O4S
reactant | MeOH | 40 ml | CO | CH4O
solvent | KOH | 2N, 12 ml | [OH-].[K+]
solvent | KOH | 1N, 30 ml | [OH-].[K+]
product | 5-(4-Chlorobenzenesulphonylamino)-5,6,7,8-tetrahydronaphth-2-yl-oxyacetic acid | ClC1=CC=C(C=C1)S(=O)(=O)NC1C=2C=CC(=CC2CCC1)OCC(=O)O | C18H18ClNO5S
